US09422271B2
The mixture of 3-vinylbenzo[c][1,2]oxaborol-1(3H)-ol (2.2 g, 13.4 mmol, 1.3 eq), 2-bromo-5-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (3.3 g, 10.5 mmol, 1.0 eq), Pd(PPh3)4 (1.3 g, 1.1 mmol, 0.11 equiv.) and saturated aq Na2CO3 (5 mL) in 1,4-dioxane (30 mL) was stirred at 90° C. for 3 h under N2, then, cooled to rt and partitioned between EtOAc and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 1-(2-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl)prop-2-en-1-ol (1.8 g, 47%). LC-MS (m/z)=368.0 [M+H]+.

reactant | 3-vinylbenzo[c][1,2]oxaborol-1(3H)-ol | 13.4 mmol, 2.2 g, 1.3 eq | C(=C)C1C2=C(B(O1)O)C=CC=C2 | C9H9BO2
reactant | 2-bromo-5-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 10.5 mmol, 3.3 g, 1.0 eq | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9BrClN5
reactant | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 1.1 mmol, 1.3 g, 0.11 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl)prop-2-en-1-ol | 1.8 g, 47% | ClC=1C(=NC(=NC1)C1=C(C=CC=C1)C(C=C)O)NC1=NNC(=C1)C1CC1 | C19H18ClN5O
